US09108984B2
To a suspension of 6-bromo-7-(1-bromoethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one (6.85 g, 19.4 mmol) in N,N-dimethylformamide (30.1 mL) was added sodium azide (1.45 g, 22.4 mmol). The mixture slowly turned clear after 5-10 minutes. After 50 minutes, a solution of sodium bicarbonate (4.7 g, 56 mmol) in water (90 mL) was added dropwise with stirring. The mixture was stirred at room temperature for 1 hour and the solid precipitates were filtered off The solid was then washed with water (30 mL×3), and dried to give 7-(1-azidoethyl)-6-bromo-3-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one as an off-white solid (5.94 g, 97.2%). LCMS calculated for C9H9BrN5OS (M+H)+: m/z 313.96, 315.96; Found: 313.75, 315.75. 1H NMR (400 MHz, DMSO-d6) δ 7.15 (q, J=1.3 Hz, 1H), 4.83 (q, J=6.8 Hz, 1H), 2.67 (d, J=1.4 Hz, 3H), 1.48 (d, J=6.8 Hz, 3H).

reactant | 6-bromo-7-(1-bromoethyl)-3-methyl-5H-[1,3]thiazolo[3,2-a]pyrimidin-5-one | 19.4 mmol, 6.85 g | BrC1=C(N=C2N(C1=O)C(=CS2)C)C(C)Br | C9H8Br2N2OS
reactant | sodium azide | 22.4 mmol, 1.45 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | 56 mmol, 4.7 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 30.1 mL | CN(C=O)C | C3H7NO
solvent | water | 90 mL | O | H2O
product | 7-(1-azidoethyl)-6-bromo-3-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 5.94 g, 97.2% | N(=[N+]=[N-])C(C)C=1N=C2N(C(C1Br)=O)C(=CS2)C | C9H8BrN5OS
